US06969712B2
1) 2-Amino-5-[4-(tert-butoxycarbonyl)piperazin-1-yl]-3-nitropyridine
A suspension of 350 mg of 2-amino-6-chloro-3-nitropyridine, 744 mg of N-(tert-butoxycarbonyl)piperazine and 552 mg of potassium carbonate in 4 ml of N-methylpyrrolidone was stirred in nitrogen atmosphere for 15 minutes at 160° C. The suspension was cooled to room temperature, to which 10 ml of water was added. Whereupon formed solid was recovered by filtration, washed with hexane and dried to provide 323 mg of the title compound.

reactant | 2-amino-6-chloro-3-nitropyridine | 350 mg | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | N-(tert-butoxycarbonyl)piperazine | 744 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 552 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | N-methylpyrrolidone | 4 ml | CN1C(CCC1)=O | C5H9NO
product | 2-Amino-5-[4-(tert-butoxycarbonyl)piperazin-1-yl]-3-nitropyridine | 323 mg | NC1=NC=C(C=C1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C14H21N5O4
